US07932272B2
2-(2-Nitro-thiophen-3-yl)-[1,3]dioxolane
2-Nitro-thiophene-3-carbaldehyde described in Preparation Example T-2 (367 mg, 2.33 mmol), ethane-1,2-diol (651 μl, 11.7 mmol) and toluene-4-sulfonic acid monohydrate (40 mg, 0.233 mmol) were dissolved in toluene (8 mL), and the solution was stirred for 2.5 hours under reflux. An aqueous solution of saturated sodium bicarbonate was added to the reaction solution at 0° C., which was then extracted with ethyl acetate, the organic layer was washed with brine, and the organic layer was dried over anhydrous magnesium sulfate. The solvent was evaporated in vacuo, the residue was purified by NH silica gel column chromatography (hexane:ethyl acetate=5:1), and the title compound (304 mg, 1.51 mmol, 65%) was obtained as a white solid.

reactant | 2-Nitro-thiophene-3-carbaldehyde | [N+](=O)([O-])C=1SC=CC1C=O | C5H3NO3S
reactant | ethane-1,2-diol | 11.7 mmol, 651 μl | C(CO)O | C2H6O2
reactant | toluene-4-sulfonic acid monohydrate | 0.233 mmol, 40 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(2-Nitro-thiophen-3-yl)-[1,3]dioxolane | 1.51 mmol, 304 mg, 65% | [N+](=O)([O-])C=1SC=CC1C1OCCO1 | C7H7NO4S
